US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-[3-(1H-1,2,4-triazol-1-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate
Method as for preparation 2 and 3 combined using 2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (preparation 168) (2.98 g, 10 mmol) and N-hydroxy-2-(1H-1,2,4-triazol-1-yl)ethanimidamide (preparation 148) (1.01 g, 10 mmol) as starting materials.

reactant | 2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 10 mmol, 2.98 g | C(C)(C)(C)OC(CC(C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | N-hydroxy-2-(1H-1,2,4-triazol-1-yl)ethanimidamide | 10 mmol, 1.01 g | ONC(CN1N=CN=C1)=N | C4H7N5O
product | tert-butyl (3R)-6-cyclohexyl-3-[3-(1H-1,2,4-triazol-1-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN1N=CN=C1 | C21H33N5O3
